US07713994B2
To a solution of 4-aminomethyl-1-furan-3-yl-1H-pyridin-2-one•trifluoroacetic acid (contaminated with zinc salts, 2.3 g) in 50% aqueous dioxane (20 mL) is added sodium hydroxide (approximately 800 mg), followed by an additional volume of aqueous dioxane (20 mL) and then the addition of di-tert-butyldicarbonate (600 μL). When complete, the reaction mixture is filtered. The filtrate is neutralized with 5% aqueous potassium hydrogen sulfate solution and extracted 3× with ethyl acetate. The combined extracts were washed with saturated aqueous sodium chloride solution, dried, and concentrated under reduced pressure to provide tert-butyl (1-furan-3-yl-2-oxo-1,2-dihydro-pyridin-4-ylmethyl)-carbamate (0.18 g, 0.62 mmol).

reactant | 4-aminomethyl-1-furan-3-yl-1H-pyridin-2-one•trifluoroacetic acid | 2.3 g | NCC1=CC(N(C=C1)C1=COC=C1)=O.FC(C(=O)O)(F)F
reactant | sodium hydroxide | approximately 800 mg | [OH-].[Na+]
reactant | di-tert-butyldicarbonate | 600 μL | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | tert-butyl (1-furan-3-yl-2-oxo-1,2-dihydro-pyridin-4-ylmethyl)-carbamate | 0.62 mmol, 0.18 g | O1C=C(C=C1)N1C(C=C(C=C1)CNC(OC(C)(C)C)=O)=O | C15H18N2O4
